US05077409
3-[[3-[Acetyl[[4-(tetradecyloxy)phenyl]methyl]amino]-phenyl]methyl]-5-methylthiazolium bromide
A mixture of 3 g of N-[3-(bromomethyl)phenyl]-N-[[4-(tetradecyloxy)phenyl]methyl]acetamide and 2.24 g of 5-methylthiazole in 40 ml of toluene is refluxed for 4 hours, cooled and diluted with 60 ml of ether and allowed to stand at room temperature overnight. The solid is collected by centrifugation and washed three times with ether then vacuum dried to give 3.1 g of the desired product as a white powder, m.p. 130°-134° C.

reactant | N-[3-(bromomethyl)phenyl]-N-[[4-(tetradecyloxy)phenyl]methyl]acetamide | 3 g | BrCC=1C=C(C=CC1)N(C(C)=O)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C30H44BrNO2
reactant | 5-methylthiazole | 2.24 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 60 ml | CCOCC | C4H10O
product | 3-[[3-[Acetyl[[4-(tetradecyloxy)phenyl]methyl]amino]-phenyl]methyl]-5-methylthiazolium bromide | 3.1 g | [Br-].C(C)(=O)N(C=1C=C(C=CC1)C[N+]1=CSC(=C1)C)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | InChI=1S/C34H49N2O2S.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-23-38-34-21-19-31(20-22-34)27-36(30(3)37)33-18-16-17-32(24-33)26-35-25-29(2)39-28-35;/h16-22,24-25,28H,4-15,23,26-27H2,1-3H3;1H/q+1;/p-1
